US05032583
trans-N-[3-(Formyloxy)cyclopentyl]carbamic acid, (phenylmethyl) ester
Diethyl azodicarboxylate (1.78 g) was added dropwise to a stirred solution of N-(cis-3-hydroxycyclopentyl)carbamic acid, (phenylmethyl) ester (1.19 g), triphenylphosphine (2.68 g) and formic acid (0.47 g) in THF (65 ml) under nitrogen at room temperature. The resulting solution was stirred for 2 h, and concentrated to give a residue which was stirred in ether (20 ml) at ca -10° under nitrogen for 1 h. The mixture was diluted with cyclohexane (20 ml), and the solid was filtered off and washed with ether:cyclohexane (1:1; 3×ca. 20 ml). The combined filtrate and washings were concentrated, and the resultant residue was purified by FCC eluting with ethyl acetate:cyclohexane (2:3) to give the title compound (1.18 g), m.p. 45°-48°.

reactant | Diethyl azodicarboxylate | 1.78 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | N-(cis-3-hydroxycyclopentyl)carbamic acid, (phenylmethyl) ester | 1.19 g | O[C@H]1C[C@H](CC1)NC(OCC1=CC=CC=C1)=O | C13H17NO3
reactant | triphenylphosphine | 2.68 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | formic acid | 0.47 g | C(=O)O | CH2O2
solvent | THF | 65 ml | C1CCOC1 | C4H8O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | cyclohexane | 20 ml | C1CCCCC1 | C6H12
product | trans-N-[3-(Formyloxy)cyclopentyl]carbamic acid, (phenylmethyl) ester | 1.18 g | C(=O)O[C@@H]1C[C@H](CC1)NC(OCC1=CC=CC=C1)=O | C14H17NO4
